US06608077B2
b) N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(5-methylisoxazol-4-yl)urea
Under Ar, a solution of 3-amino-6-chloro-2-hydroxybenzenesulfonamide (238 mg, 1.07 mmol) and the crude material of 4-(azidocarbonyl)-5-methylisooxazole in 5 mL of N,N-dimethyl-formamide was stirred for 18 hours at room temperature. Purification upon Gilson HPLC, eluting with acetonitrile/water (10/90, v/v to 90/10, v/v, over 10 min), gave the desired product (86 mg, 23%). LC-MS (m/z) 347.0 (M+).

reactant | 3-amino-6-chloro-2-hydroxybenzenesulfonamide | 1.07 mmol, 238 mg | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
reactant | 4-(azidocarbonyl)-5-methylisooxazole | N(=[N+]=[N-])C(=O)C=1C=NOC1C | C5H4N4O2
reactant | N,N-dimethyl-formamide | 5 mL | CN(C=O)C | C3H7NO
product | N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(5-methylisoxazol-4-yl)urea | 86 mg, 23% | NS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NC=1C=NOC1C)O | C11H11ClN4O5S
